US08084395B2
6.5 g (14.7 mmoles) of (2-Chloro-pyridin-3-yl)-[2-(4-fluoro-phenyl)-1-(2-methylthio-pyrimidin-4-yl)-ethylidene]-amine is dissolved in 60 mL of dimethylformamide under nitrogen. 6.2 g of DABCO (52 mmoles) and 0.5 g of bis(triphenylphosphine)palladium dichloride are subsequently added to the reaction mixture which is stirred for 4 hours at 120° C. The cooled reaction mixture is then poured into water and extracted with ethyl acetate. The organic phase is washed with water and dried over magnesium sulfate. The solid residue after concentration is recrystallized in diethyl ether to afford 4 g of 3-(4-Fluoro-phenyl)-2-(2-methylthio-pyrimidin-4-yl)-1H-pyrrolo[3,2-b]pyridine as a yellowish solid.

reactant | (2-Chloro-pyridin-3-yl)-[2-(4-fluoro-phenyl)-1-(2-methylthio-pyrimidin-4-yl)-ethylidene]-amine | 14.7 mmoles, 6.5 g | ClC1=NC=CC=C1N=C(CC1=CC=C(C=C1)F)C1=NC(=NC=C1)SC | C18H14ClFN4S
reactant | DABCO | 52 mmoles, 6.2 g | C1CN2CCN1CC2 | C6H12N2
reactant | water | O | H2O
solvent | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
catalyst | bis(triphenylphosphine)palladium dichloride | 0.5 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(4-Fluoro-phenyl)-2-(2-methylthio-pyrimidin-4-yl)-1H-pyrrolo[3,2-b]pyridine | 4 g | FC1=CC=C(C=C1)C1=C(NC=2C1=NC=CC2)C2=NC(=NC=C2)SC | C18H13FN4S
